US04254116
5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride
A mixture of 3.53 g. (0.01 mole) of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine, 2.07 g. (0.01 mole) of γ-piperidinobutyric acid hydrochloride, 2.16 g. (0.0105 mole) of N,N'-dicyclohexylcarbodiimide, and 160 ml. of dried methylene chloride was stirred overnight at room temperature. The reaction mixture was cooled at approximately 5° C. for several hours and was filtered to remove dicyclohexylurea. The filtrate was evaporated in vacuo and the residue was dissolved in 12.5 ml. of methylene chloride and 50 ml. of cyclohexane. After standing overnight in the cold room (approximately 5° C.), the mixture was filtered again and the filtrate was evaporated in vacuo. The residue was recrystallized from methylene chloride/ether, giving 4.1 g. of the product, m.p. 134°-137°.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine | 0.01 mole | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C=2C1=CC=NC2)C | C23H31NO2
reactant | γ-piperidinobutyric acid hydrochloride | 0.01 mole | Cl.N1(CCCCC1)CCCC(=O)O
reactant | N,N'-dicyclohexylcarbodiimide | 0.0105 mole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C32H46N2O3.ClH/c1-6-7-9-13-23(2)24(3)25-20-28(36-30(35)14-12-19-34-17-10-8-11-18-34)31-26-22-33-16-15-27(26)32(4,5)37-29(31)21-25;/h15-16,20-24H,6-14,17-19H2,1-5H3;1H
